US06858630B2
2-(4′-propylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid (Compound 161)
Follow the procedure of example 1c) except substituting 4′-propylbiphenyl-3-carbaldehyde for 2-methoxy-3-(2′-methylphenyl) benzaldehyde and 5,6-diamino-4-hydroxynaphthalene-2-carboxylic acid for 3,4-diamino-5-hydroxy-1-naphthalene sulfonic acid dihydrochloride, the title compound was prepared as a solid (0.05 g, 99%). MS(ES) m/z 423 [M+H].

reactant | 2-methoxy-3-(2′-methylphenyl) benzaldehyde | COC1=C(C=O)C=CC=C1C1=C(C=CC=C1)C | C15H14O2
reactant | 5,6-diamino-4-hydroxynaphthalene-2-carboxylic acid | NC1=C2C(=CC(=CC2=CC=C1N)C(=O)O)O | C11H10N2O3
reactant | 3,4-diamino-5-hydroxy-1-naphthalene sulfonic acid dihydrochloride | Cl.Cl.NC=1C=C(C2=CC=CC(=C2C1N)O)S(=O)(=O)O
product | 2-(4′-propylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid | C(CC)C1=CC=C(C=C1)C1=CC(=CC=C1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)C(=O)O)O | C27H22N2O3
